US08334456B2
Step 2: Preparation of 4,8-dioctyl-2,6-bis-trimethylstannylbenzo[1,2-b:4,5-b′]dithiophene.
To a solution of 4,8-dioctylbenzo[1,2-b:4,5-b′]dithiophene (782 mg, 1.89 mmol) in dry tetrahydrofuran (36 mL) was added n-butyllithium (2.5 M in hexane, 1.66 mL, 4.15 mmol) at −78° C. After 1 hour, trimethyltin chloride (877 mg, 4.40 mmol) was added in one portion. The mixture was stirred at room temperature for 2 hours, poured into water and extracted with ether three times. The organic layer was washed with brine and dried over anhydrous MgSO4. Upon evaporating the solvent, a pale yellow oil was obtained (1.03 g, yield 74%). Upon standing for one week, yellow crystals emerged and were collected (413 mg, yield 29%). 1H NMR (CDCl3, 500 MHz) δ=7.51 (s, 2H), 3.22 (t, J=8.0 Hz, 4H), 1.76-1.89 (m, 4H), 1.45-1.54 (m, 4H), 1.22-1.45 (bs, 16H), 0.90 (t, J=7.0 Hz, 6H), 0.47 (s, 18H).

reactant | 4,8-dioctylbenzo[1,2-b:4,5-b′]dithiophene | 1.89 mmol, 782 mg | C(CCCCCCC)C1=C2C(SC=C2)=C(C2=C1SC=C2)CCCCCCCC | C26H38S2
reactant | n-butyllithium | 4.15 mmol, 2.5 M, 1.66 mL | C(CCC)[Li]
reactant | trimethyltin chloride | 4.40 mmol, 877 mg | C[Sn](C)(C)Cl
reactant | water | O | H2O
solvent | tetrahydrofuran | 36 mL | O1CCCC1 | C4H8O
product | 4,8-dioctyl-2,6-bis-trimethylstannylbenzo[1,2-b:4,5-b′]dithiophene | yield 74% | C(CCCCCCC)C1=C2C(SC(=C2)[Sn](C)(C)C)=C(C2=C1SC(=C2)[Sn](C)(C)C)CCCCCCCC | InChI=1S/C26H36S2.6CH3.2Sn/c1-3-5-7-9-11-13-15-21-23-17-19-28-26(23)22(24-18-20-27-25(21)24)16-14-12-10-8-6-4-2;;;;;;;;/h17-18H,3-16H2,1-2H3;6*1H3;;
